US04857507
(3S,4S)-3-Hydroxy-4-t-butyloxycarbonylamino-5-cyclohexylpentane nitrile
To a solution of lithium diisopropylamide (4.40 mmol) in dry tetrahydrofuran (4 mL) at -78° C. was added acetonitrile (0.25 mL, 4.4 mmol). To this enolate suspension was added 2(S)-t-butyloxycarbonylamino-3-cyclohexylpropanal (0.76 g, 2.98 mmol) in tetrahydrofuran (5 mL) pre-cooled to -78° C. After stirring for 15 minutes, the mixture was quenched with 2M HCl (5.0 mL), and extracted with ether which was dried over MgSO4 and evaporated. Flash chromatography on silica gel with ethyl acetate/hexane mixtures afforded 0.360 g (41%) of the desired compound as an oil.

reactant | lithium diisopropylamide | 4.40 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | acetonitrile | 4.4 mmol, 0.25 mL | C(C)#N | C2H3N
reactant | 2(S)-t-butyloxycarbonylamino-3-cyclohexylpropanal | 2.98 mmol, 0.76 g | C(C)(C)(C)OC(=O)N[C@H](C=O)CC1CCCCC1 | C14H25NO3
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (3S,4S)-3-Hydroxy-4-t-butyloxycarbonylamino-5-cyclohexylpentane nitrile | 0.360 g, 41% | O[C@@H](CC#N)[C@H](CC1CCCCC1)NC(=O)OC(C)(C)C | C16H28N2O3
